US08012966B2
N-[5-Fluoro-2-oxo-3-(4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-2-hydroxy-acetamide
The title compound was prepared under the same conditions as described in Example 41 with 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-acetamide as starting materials to give N-[5-fluoro-2-oxo-3-(4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-2-hydroxy-acetamide (39 mg, 92%) as a red solid.

reactant | 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | O=C1NCCC2=C1C(=C(N2)C=O)C2=CC=CC=C2 | C14H12N2O2
reactant | N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-acetamide | FC=1C=C2CC(NC2=CC1NC(CO)=O)=O | C10H9FN2O3
product | N-[5-fluoro-2-oxo-3-(4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-2-hydroxy-acetamide | 39 mg, 92% | FC=1C=C2C(C(NC2=CC1NC(CO)=O)=O)=CC1=C(C=2C(NCCC2N1)=O)C1=CC=CC=C1 | C24H19FN4O4
